US06271425B1
A reaction vessel (50 ml, a two-neck, eggplant type flask) is subjected to nitrogen gas purging. NaBH3CN (1.0 mmol, 62.8 mg), AIBN (0.005 mmol, 0.8 mg) and Bu2(t-Bu)SnCl (0.025 mmol, 8.1 mg, 7 μl) are added to tert-butanol (2 ml). Then, 3-iodo-1-phenylheptane (0.5mmol, 151.1mg, 115 μl) is added. The introduction of nitrogen gas is discontinued, a nitrogen gas-filled black butyl rubber balloon is set instead, and using a syringe, oxygen (0.75 mmol, 18 ml) is bubbled into the solution. Thereafter, the reaction vessel is immersed in an oil bath at 60° C. After 13 hours, heating is discontinued and the reaction mixture is diluted with pure water (10 ml) and extracted with ether (15 ml×4). The organic solution is dried over anhydrous magnesium sulfate and the solvent is distilled off. The residue is purified by column chromatography (silica gel 4 g, ethyl acetate/hexane 20%) to provide 1phenyl-3-heptanol (89.4 mg, 93%).

reactant | NaBH3CN | 1.0 mmol, 62.8 mg | [BH3-]C#N.[Na+]
reactant | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
reactant | 3-iodo-1-phenylheptane | 0.5mmol, 115 μl, 151.1mg | IC(CCC1=CC=CC=C1)CCCC | C13H19I
reactant | oxygen | 0.75 mmol, 18 ml | O=O | O2
solvent | water | 10 ml | O | H2O
catalyst | AIBN | 0.005 mmol, 0.8 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 1phenyl-3-heptanol | 89.4 mg, 93% | C1(=CC=CC=C1)CCC(CCCC)O | C13H20O
